US04072718
When a mixture of 10 ml of di-t-butyl sulfide and 2.5 ml of dimethyl sulfoxide was heated at 300° F. (149° C.) for about 40 minutes in the presence of catalytic amounts of hydrochloric acid and zinc chloride a 42 percent yield of di-t-butyl disulfide was obtained, as indicated by gas-liquid chromatography.

reactant | di-t-butyl sulfide | 10 ml | C(C)(C)(C)SC(C)(C)C | C8H18S
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | di-t-butyl disulfide | 42 percent yield | C(C)(C)(C)SSC(C)(C)C | C8H18S2
